Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
aflutter
 
Major Surgical or Invasive Procedure:
___ s/p Atrial flutter ablation

 
History of Present Illness:
Mr. ___ presented in ___ with new onset CHF and
rapid atrial flutter that was difficult to rate control. This
occurred in the setting of high alcohol intake.  He failed
cardioversion and was loaded with Amiodarone. Later that
admission he underwent successful flutter ablation.  Upon follow
up in ___ the patient was noted to be in atrial
fibrillation with a controlled ventricular response.  He had a
return of sinus rhythm in ___ but then reverted back 
to
AF the following month. Repeat echo in ___ revealed an
improvement in his LVEF to normal. He underwent PVI on ___.
He remained on amiodarone through the years - discontinued about
six months ago.

Patient presented to ___ on ___ with tachycardia in the
170's that was noted the morning of colonscopy. He was treated
with IV cardizem and was started on Dronedarone 400mg bid. He 
had
another admission ___ ___yspnea and paresthesias.
.CTA was negative for PE. There was some suggestion of 
incomplete
filling of the ___ and clot could not be ruled out. Stress
testing showed an ischemic defect and he underwent stenting of
the LAD. Neurology thought it was unlikely that he had a TIA. 
MRI
of the brain showed no acute findings. His neurological symptoms
resolved spontaneously.

He is now being referred for PVI with TEE prior to rule out ___. Of note, patient's wife reports that he seems to cough
frequently when he eats or drinks. He has not had any workup. 

 
Past Medical History:
Paroxysmal Aflutter, s/p Cardioversion x 2, ___ and ___ 
and atrial flutter ablation/ pulmonary vein ablation ___, 
___  
HLD  
OA - HAND  
Impingement syndrome, shoulder  
Erectile Dysfunction  
Cardiomyopathy ___ tachycardia, now resolved on last ECHO)
Depression  
 
Social History:
___
Family History:
Brother: ___ - Type II; Stroke 
Sister: ___
Father: Heart attack (age ___
 
Physical Exam:
Admission:
VS: 130/73, 50, 18, 100% RA

Physical Exam:
General: No acute distress
Neuro: A+Ox3
CV: RRR S1S2, no murmurs
Resp: Lungs clear bilaterally
Vascular: No edema, feet warm.  1+ ___ bilaterally.  Sheaths
remain in bilateral groin sites, no oozing or hematoma.
.

Discharge:
 Objective:  
 I/O: ___
 Tele: SR, rate 50-70  
 ECG: NA  
 VS: see sheet  
 Physical Exam:  
 Gen: A/O, calm
 Neuro: A/O, voice slightly hoarse, MAE  
 Neck/JVP: no JVD  
 CV: RRR, no M/R/G  
 Chest: clear bilat  
 ABD: soft, NT  
 Extr: no edema. Right and left groin sites with no ecchymosis, 
right groin with quarter sized hematoma, left with no hematoma.
 Skin: intact  
 Access sites: PIV  
 
Pertinent Results:
on admission:

___ 10:30AM BLOOD WBC-3.4* RBC-5.15 Hgb-13.6* Hct-40.4 
MCV-78* MCH-26.4 MCHC-33.7 RDW-15.4 RDWSD-42.8 Plt ___
___ 11:30AM BLOOD ___
___ 10:30AM BLOOD Glucose-86 UreaN-23* Creat-1.3* Na-137 
K-6.8* Cl-100 HCO3-25 AnGap-19
___ 01:10AM BLOOD CK-MB-1 cTropnT-0.08*
___ 04:52AM BLOOD CK-MB-1 cTropnT-0.08*
.
On discharge:

___ 06:29AM BLOOD Hct-35.0*
___ 06:29AM BLOOD ___
___ 06:29AM BLOOD UreaN-13 Creat-1.0 Na-138 K-3.9
.
TEE before ablation showed preserved EF 55%.
.
EP aflutter ablation:
Baseline rhythm was sinus. Given unclear origin of atrial 
tachycardia and history of atrial fibrillation,
transseptal puncture was done to evaluate the pulmonary veins 
which were found to be chronic isolated.
Despite aggressive stimulation, no arrhythmias could be induced. 
We then mapped the prior cavotricuspid
isthmus line and found that it had a reconnection at the annular 
end. This was again ablated with
achievement of block. No further stimulation was done.
There were no complications and the pt tolerated the procedure 
well.
- follow-up with me on ___ as scheduled
- continue with current medications

 
Brief Hospital Course:
. Atrial arrhythmia: s/p atrial flutter ablation, no AF induced  

 (chronic isolation of 4 pulmonary veins) INR 2.8 today. Groin 
sites stable. Warfarin restarted on home regimen. Orthostatic 
likely d/t tamsulosin, now d/c'ed. Today drops to 98 with 
standing but no dizziness. cont ASA and dronederone. F/U Dr 
___ ___.  

 2. CAD: s/p synergy DES x2 to LAD on ___ Chest pain on 
___ but trop stable (mildly elevated from ablation) and no ECG 
changes  
 -Continue Plavix  
 -Continue ASA and Atorvastatin  

 3.Urinary retention and hematuria: ___ foley and inc INR. 
Straight cathed x1, then foley inserted. Urology was able to d/c 
foley on ___. Voiding well now on his own. D/c'ed tamsulosin 
because of orthostasis. had BM yesterday. 
 - push PO's.    
   
 4. Epistaxis: Having symptoms of glottal fullness, epistaxis 
and dry throat, all of which improved with ocean nasal spray and 
humidified mask. See ENT evaluation. 
 - humidified mask  
 - ocean nasal spray  
 - push po's.
- ENT follow up
  
 5.Orthostasis: now resolved. thought ___ tamsulosin.   

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 50 mcg PO DAILY 
2. Dronedarone 400 mg PO BID 
3. FLUoxetine 40 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. Furosemide 20 mg PO DAILY 
6. Warfarin 5 mg PO 6X/WEEK (___) 
7. Aspirin 81 mg PO DAILY 
8. Atorvastatin 80 mg PO QPM 
9. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  
4.  Cyanocobalamin 50 mcg PO DAILY  
5.  Dronedarone 400 mg PO BID  
6.  FLUoxetine 40 mg PO DAILY  
7.  Warfarin 5 mg PO 6X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial flutter ablation
CAD
Urinary Retention
Hematuria
Epistaxis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to undergo an atrial fibrillation ablation, 
however we were unable to induce any atrial fibrillation during 
the procedure. We were able to do an aflutter ablation. Care of 
your groin access sites will be included in your discharge 
instructions. 
You had some urinary retention that has now resolved. You also 
had some bleeding from the nose that was evaluated by ENT who 
felt that there was mild bruising and swelling and recommended a 
nasal spray. Your blood pressure was low and you felt dizzy when 
you stood up. This is also better after intravenous fluid. 
 
Followup Instructions:
___